US06723722B1
A solution of the resultant tert-butyl 2-(Boc-L-methionyl)-1-hydrazine carboxylate in acetone (20 ml) was combined with methyl iodide (17 ml, 240 mmol) and stirred at room temperature overnight. The reaction mixture was concentrated, and the resultant residue was triturated from ether, collected by filtration, washed with ether and dried to obtain tert-butyl 2-(Boc-L-methionyl)-1-hydrazine carboxylate methylsulfonium iodide (19.14 g) as a colorless solid.

reactant | tert-butyl 2-(Boc-L-methionyl)-1-hydrazine carboxylate | C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)NNC(=O)OC(C)(C)C | C15H29N3O5S
reactant | methyl iodide | 240 mmol, 17 ml | CI | CH3I
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | tert-butyl 2-(Boc-L-methionyl)-1-hydrazine carboxylate methylsulfonium iodide | 19.14 g | [I-].C[SH2+].C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)NNC(=O)OC(C)(C)C | InChI=1S/C15H29N3O5S.CH4S.HI/c1-14(2,3)22-12(20)16-10(8-9-24-7)11(19)17-18-13(21)23-15(4,5)6;1-2;/h10H,8-9H2,1-7H3,(H,16,20)(H,17,19)(H,18,21);2H,1H3;1H/t10-;;/m0../s1
